US04456465
Following the procedures of Example 1, P-ethyl-2-nitro-5-(2,4-dichlorophenoxy)phenylphosphinic acid (0.30 g, 0.80 mmol) and chloromethyl 2,2-dimethylpropanoate (0.24 g, 1.6 mmol) are reacted together in the presence of triethylamine (0.23 ml) and DMF (3 ml) to give 2,2-dimethylpropionyloxymethyl P-ethyl-2-nitro-5-(2,4-dichlorophenoxy)phenylphosphinate.

reactant | P-ethyl-2-nitro-5-(2,4-dichlorophenoxy)phenylphosphinic acid | 0.80 mmol, 0.30 g | C(C)P(O)(=O)C1=C(C=CC(=C1)OC1=C(C=C(C=C1)Cl)Cl)[N+](=O)[O-] | C14H12Cl2NO5P
reactant | chloromethyl 2,2-dimethylpropanoate | 1.6 mmol, 0.24 g | CC(C(=O)OCCl)(C)C | C6H11ClO2
reactant | triethylamine | 0.23 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2,2-dimethylpropionyloxymethyl P-ethyl-2-nitro-5-(2,4-dichlorophenoxy)phenylphosphinate | C(C)P(OCOC(C(C)(C)C)=O)(=O)C1=C(C=CC(=C1)OC1=C(C=C(C=C1)Cl)Cl)[N+](=O)[O-] | C20H22Cl2NO7P
